US05061717
4-(3-Phenylpropylthio)benzaldehyde
By the method of Preparation 7, 3-phenylpropyl mercaptan (41.1 g) and 4-bromobenzaldehyde (53.7 g) were converted to 70 g of present title product, isolated as an oil following chromatography on silica gel using 9:1 hexane:ethyl acetate as eluant; tlc Rf 0.4 (1:4 ethyl acetate:hexane).

reactant | 3-phenylpropyl mercaptan | 41.1 g | C1(=CC=CC=C1)CCCS | C9H12S
reactant | 4-bromobenzaldehyde | 53.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 4-(3-Phenylpropylthio)benzaldehyde | 70 g | C1(=CC=CC=C1)CCCSC1=CC=C(C=O)C=C1 | C16H16OS
